US07094594B2
(3R,5S)-6-benzoyloxy-3,5-dihydroxyhexanoic tert-butyl ester
Using 5 ml of Medium C described hereinbefore, the microorganisms indicated in Table 4 were cultured in the same manner as in Example 11. From 5 ml of each culture, the cells were centrifugally harvested, suspended in 0.5 ml of 100 mM phosphate buffer (pH 6.5) containing 0.05% of (5S)-6-benzoyloxy-5-hydroxy-3-oxohexanoic tert-butyl ester and 8% of glucose, and the reaction was carried out in the same manner. The results are shown in Table 4.

reactant | (5S)-6-benzoyloxy-5-hydroxy-3-oxohexanoic tert-butyl ester | C(C)(C)(C)OC(CC(C[C@@H](COC(C1=CC=CC=C1)=O)O)=O)=O | C17H22O6
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | phosphate | 100 mM, 0.5 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
product | (3R,5S)-6-benzoyloxy-3,5-dihydroxyhexanoic tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C[C@@H](COC(C1=CC=CC=C1)=O)O)O)=O | C17H24O6
